US04960776
N-[2-(Hexahydro-1H-azepin-1-yl)ethyl]-4-phenyl-1-piperazinecarboxamide hydrochloride [1:2].
To a solution of 5.0 g (0.03 mole) of 1,1'-carbonyldiimidazole in 75 ml of tetrahydrofuran (THF) was added a solution of 4.0 g (0.028 mole) of N-(2-aminoethyl)homopiperidine in 75 ml of THF, and the reaction mixture was stirred at ambient temperature for 1.5 hr. A solution of 5.0 g (0.03 mole) of 1-phenylpiperazine in 50 ml of THF was added, and the reaction mixture was heated at reflux for 20 hr. The solution was concentrated under reduced pressure, and the residue was dissolved in 150 ml of benzene. The solution was washed thrice with 50 ml portions of water and once with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil, which was converted to the hydrochloride with ethereal hydrogen chloride. The collected solid was recrystallized from 2-propanol to yield 6.7 g (53%) of title compound as a white solid, m.p. 190°-193° C.

reactant | 1,1'-carbonyldiimidazole | 0.03 mole, 5.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2-aminoethyl)homopiperidine | 0.028 mole, 4.0 g | NCCN1CCCCCC1 | C8H18N2
reactant | 1-phenylpiperazine | 0.03 mole, 5.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | hydrochloride | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | THF | 75 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | N-[2-(Hexahydro-1H-azepin-1-yl)ethyl]-4-phenyl-1-piperazinecarboxamide hydrochloride | 6.7 g, 53% | Cl.N1(CCCCCC1)CCNC(=O)N1CCN(CC1)C1=CC=CC=C1 | InChI=1S/C19H30N4O.ClH/c24-19(20-10-13-21-11-6-1-2-7-12-21)23-16-14-22(15-17-23)18-8-4-3-5-9-18;/h3-5,8-9H,1-2,6-7,10-17H2,(H,20,24);1H
